US04482762
4.6-Dimethyl-3-nonen-5-ol
28.3 g (1.18 g atoms) of magnesium in 200 ml of ether are placed in an apparatus which is customary for Grignard reactions. While stirring and under a protective gas atmosphere (nitrogen) there are subsequently added dropwise 178.1 g (1.18 mol) of 2-bromopentane in 500 ml of absolute ether so that, after initiation of the reaction, the ether constantly boils slightly. After completing the addition, the mixture is held at reflux temperature for a further 30 minutes, then cooled to 10° C. and a solution of 96.1 g (0.98 mol) of 2-methyl-2-pentenal in 300 ml of ether is added dropwise during 30 minutes so that the reaction temperature during the addition lies between 10° and 20° C. In order to complete the reaction, the mixture is refluxed for 1 hour, then the Grignard complex is decomposed with saturated ammonium chloride solution and ice, the supernatant ethereal solution is washed with saturated sodium chloride solution and subsequently dried. After evaporating the solvent, there remain behind 176 g of crude product, which are fractionally distilled. There are thus obtained 119 g (71.4%) of olfactorily good 4,6-dimethyl-3-nonen-5-ol of boiling point 92° C./12 mm Hg.

reactant | magnesium | 28.3 g | [Mg] | Mg
reactant | 2-bromopentane | 1.18 mol, 178.1 g | BrC(C)CCC | C5H11Br
reactant | 2-methyl-2-pentenal | 0.98 mol, 96.1 g | CC(C=O)=CCC | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
product | 4.6-Dimethyl-3-nonen-5-ol | CC(=CCC)C(C(CCC)C)O | C11H22O
